US08202858B2
4-Carboxymethoxy-3-methyl-benzoic Acid Methyl Ester
Trifluoroacetic acid (20 ml) was added to a solution of 4-tert-butoxycarbonylmethoxy-3-methyl-benzoic acid methyl ester from Example E41.1 (3.8 g, 13.6 mmol) in di-chloromethane (40 ml) and the mixture was stirred for 1 h at room temperature. Volatiles were removed in vacuo and azeotroped with dichloromethane to yield the title compound (3.04 g, 100%).

reactant | Trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-tert-butoxycarbonylmethoxy-3-methyl-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)OCC(=O)OC(C)(C)C)C)=O | C15H20O5
solvent | di-chloromethane | 40 ml | ClCCl | CH2Cl2
product | 4-Carboxymethoxy-3-methyl-benzoic Acid Methyl Ester | 3.04 g, 100% | COC(C1=CC(=C(C=C1)OCC(=O)O)C)=O | C11H12O5
